US05770378
A solution of chromium trioxide (13.55 mL of a 10% CrO3 /AcOH solution) was slowly added to a solution of finely ground 1,1,5,5,8,8-hexamethyl-1,2,3,4,5,6,7,8-octahydroanthracene (861 mg, 3.18 mmol) in AcOH (12 mL) at 25° C. The mixture was stirred for 30 min. Ice water (100 mL) was added, and the mixture was extracted with EtOAc (3×50 mL). The organic extracts were combined and twice treated with Et3N (10 mL), and washed and with sat. NaHCO3 (20 mL), water (2×20 mL) and brine (2×20 mL). The solvent was evaporated and the crude residue was purified by silica gel chromatography (hexanes:EtOAc 9:1) to give 831 mg of pure 3,4,5,6,7,8-hexahydro-4,4,5,5,8,8-hexamethyl-2H-anthracen-1-one (structure 1 where R1, R2, R3, and R4 are methyl, R5, R6, R7, R8, R9, and R10 are hydrogen, X and Y are carbon, Z is C(CH3)2 and m=n=1): 1H NMR (400 MHz, CDCl3) δ 7.97 (s, 1H, Ar), 7.31 (s, 1H, Ar), 2.68 (t, J=8.0 Hz, 2H), 1.98 (t, J=6.0 Hz, 2H), 1.68 (s, 4H) 1.37 (s, 3H), 1.30 (s, 3H), 1.29 (s, 3H). The above ketone was transformed to the title compound as outlined in Scheme II.

reactant | 1,1,5,5,8,8-hexamethyl-1,2,3,4,5,6,7,8-octahydroanthracene | 3.18 mmol, 861 mg | CC1(CCCC2=CC=3C(CCC(C3C=C12)(C)C)(C)C)C | C20H30
reactant | AcOH | 12 mL | CC(=O)O | C2H4O2
catalyst | chromium trioxide | [O-2].[O-2].[O-2].[Cr+6]
product | 3,4,5,6,7,8-hexahydro-4,4,5,5,8,8-hexamethyl-2H-anthracen-1-one | 831 mg | CC1(CCC(C2=CC=3C(CCC(C3C=C12)(C)C)(C)C)=O)C | C20H28O
